US07419984B2
To a stirred mixture of 4,6-dichloro-pyrimidin-2-ylamine (5.0 g, 30.5 mmol) and pyridine (2.6 ml, 32 mmol) in dichloromethane (100 ml), cooled in an ice bath, was added trifluoroacetic anhydride (4.5 ml, 32 mmol). After stirring at room temperature for 1 hour, the mixture was diluted with dichloromethane (100 ml) and washed with cold saturated sodium chloride solution (100 ml) and dried over sodium sulfate. Concentrating under reduced pressure provided N-(4,6-dichloro-pyrimidin-2-yl)-2,2,2-trifluoro-acetamide (7.9 g, 100% yield).

reactant | 4,6-dichloro-pyrimidin-2-ylamine | 30.5 mmol, 5.0 g | ClC1=NC(=NC(=C1)Cl)N | C4H3Cl2N3
reactant | pyridine | 32 mmol, 2.6 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 32 mmol, 4.5 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-(4,6-dichloro-pyrimidin-2-yl)-2,2,2-trifluoro-acetamide | 7.9 g, 100% yield | ClC1=NC(=NC(=C1)Cl)NC(C(F)(F)F)=O | C6H2Cl2F3N3O
